US07291632B2
Preparation 27. 1-Methyl-4-(N-(2-fluoro-3-aminophenyl)ethylamino)piperidine
Mix 1-methyl-4-(N-(2-fluoro-3-chlorophenyl)ethylamino)piperidine (Preparation 26) (0.367 g), benzophenone imine (0.295 g), Pd2(dba)3 (50 mg), 2-(di-t-butylphosphino)biphenyl (32 mg), and sodium t-butoxide (0.182 g) in toluene (10 mL) and heat at reflux for three days. Dilute with methanol (5 mL), 30 minutes after adding 2 mL of 5N HCl, load on a SCX column (10 g), wash with methanol, elute the product with 2M NH3 in methanol, evaporate and purify on a silica gel column (35 g), using a gradient of dichloromethane-2M NH3 in methanol to give 39 mg of the title compound: mass spectrum (electric spray) m/z=252 (M+1).

reactant | 1-methyl-4-(N-(2-fluoro-3-chlorophenyl)ethylamino)piperidine | 0.367 g | CN1CCC(CC1)NCCC1=C(C(=CC=C1)Cl)F | C14H20ClFN2
reactant | benzophenone imine | 0.295 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | 2-(di-t-butylphosphino)biphenyl | 32 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium t-butoxide | 0.182 g | CC(C)([O-])C.[Na+]
reactant | HCl | 5N, 2 mL | Cl | ClH
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 5 mL | CO | CH4O
catalyst | Pd2(dba)3 | 50 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-Methyl-4-(N-(2-fluoro-3-aminophenyl)ethylamino)piperidine | 39 mg | CN1CCC(CC1)NCCC1=C(C(=CC=C1)N)F | C14H22FN3
